US06878827B2
2-(2-aminothiazole-4-yl)-2-methoxycarbonylmethoxyimino acetic acid monohydrate (syn-isomer) (10.0 g) was suspended and stirred in acetone (100 ml), and heated and refluxed for 120 minutes. The precipitated crystal was filtered and collected, and dried under reduced pressure to obtain anhydrous 2-(2-aminothiazole-4-yl)-2-methoxycarbonylmethoxyiminoacetic acid (syn-isomer) (9.0 g) (96% yield).

reactant | 2-(2-aminothiazole-4-yl)-2-methoxycarbonylmethoxyimino acetic acid monohydrate | 10.0 g | O.NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OC
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-(2-aminothiazole-4-yl)-2-methoxycarbonylmethoxyiminoacetic acid | 9.0 g, 96% yield | NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OC | C8H9N3O5S
